US05753664
1-Methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4-one
Sodium metal (1.21 g) was dissolved in anhydrous ethanol (50 ml) followed by addition of N-methylthiourea (4.96 g), and the mixture was stirred for dissolution at 50° C. for 30 minutes. Then, a solution of ethyl 2-cyano-4,4-diethoxybutyrate (11.47 g) in ethanol (10 ml) was added and the mixture was refluxed at 100° C. for 5 hours. The solvent was then distilled off under reduced pressure and the residue was-dissolved by adding water (20 ml). Then, 10% hydrochloric acid (75 ml) was added and the mixture was stirred overnight. The resulting precipitate was collected by filtration, washed serially with water, ethanol and ether, and dried to provide the title compound (6.8 g). 1H-NMR (DMSO-d6) δ: 3.82(3H,s), 6.41-6.44(1H,m), 6.92-6.95(1H,s), 12.02(1H,s), 12.06(1H,s).

reactant | Sodium | 1.21 g | [Na] | Na
reactant | N-methylthiourea | 4.96 g | CNC(=S)N | C2H6N2S
reactant | ethyl 2-cyano-4,4-diethoxybutyrate | 11.47 g | C(#N)C(C(=O)OCC)CC(OCC)OCC | C11H19NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-Methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4-one | 6.8 g | CN1C(=NC(C2=C1NC=C2)=O)S | C7H7N3OS
